US07091227B2
1-(4,6-Dibromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea, (18):
To a suspension of 1-(6-bromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea (50 mg, 0.158 mmol) in AcOH (2 mL) at about 20° C. was added Br2 (9 μl, 0.174 mmol). The reaction mixture was stirred at about 20° C. for about 15 minutes. Toluene (10 mL) was added and the solvents evaporated. The crude material was purified by preparative LC/MS to give 19 mg (30%) pure 18. 1H NMR (DMSO) δ 1.09 (t, 3H, J=6 Hz CH3), 3.19 (m, 2H, CH2), 6.55 (br s, 1H, NH), 7.68 (s, 1H, ArH), 10.51 (br s, 1H, NH or OH), 11.20 (br s, 1H, NH or OH). HPLC retention timer 2.90 minutes.

reactant | 1-(6-bromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea | 0.158 mmol, 50 mg | BrC1=C(C2=C(N=C(S2)NC(=O)NCC)C=C1)O | C10H10BrN3O2S
reactant | Br2 | 0.174 mmol, 9 μl | BrBr | Br2
reactant | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 1-(4,6-Dibromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea | BrC1=CC(=C(C2=C1N=C(S2)NC(=O)NCC)O)Br | C10H9Br2N3O2S
